US07910740B2
((S)-1-{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-carbamic acid tert-butyl ester
The title compound was prepared in analogy to example 1 step e) from 102 mg (0.33 mmol) (S)-[1-(2-bromo-acetyl)-3-methyl-butyl]-carbamic acid tert-butyl ester, 42 mg (0.33 mmol) N,N-diisopropyl ethyl amine and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude reaction was poured onto water and extracted twice with ethyl acetate. The organic layer was washed with brine, dried over sodium sulphate, filtered and the solvent was evaporated under vacuo. The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 97 mg (69%) ((S)-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-carbamic acid tert-butyl ester as a light yellow solid. MS ISP (m/e): 472.3 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.35 (s, 1H), 7.95 (s, 1H), 7.65 (s, 1H), 7.23 (d, 1H), 7.15 (d, 1H), 7.03 (s, 1H), 6.99 (d, 1H), 6.55 (s, 1H), 4.59 (m, 1H), 3.82 (s, 3H), 2.14 (s, 3H), 1.70-1.55 (m, 3H), 1.39 (s, 9H), 0.90 (s, 6H). α589=−43.2; T=20° C.; c=1 g/m100 ml, solvent=MeOH.

reactant | (S)-[1-(2-bromo-acetyl)-3-methyl-butyl]-carbamic acid tert-butyl ester | 0.33 mmol, 102 mg | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(CBr)=O)=O | C12H22BrNO3
reactant | N,N-diisopropyl ethyl amine | 0.33 mmol, 42 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | ((S)-1-{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC(C)C)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C24H33N5O3S
